US08183289B2
A mixture of tert-butyl 2-(3-cyano-4-fluorophenyl)acetate (0.122 g), N-(4-chlorophenethyl)-4-hydroxybenzamide (0.150 g), and potassium carbonate (0.086 g) was dissolved in 2 ml of DMSO and stirred at 90° C. After 1 day, the reaction was cooled, loaded onto a silica gel sample and product eluted with a solvent system gradient of 0.5% methanol/dichloromethane to 5% methanol/dichloromethane to give tert-butyl 2-(3-cyano-4-(4-(phenethylcarbamoyl)phenoxy)phenyl)acetate (0.120 g).

reactant | tert-butyl 2-(3-cyano-4-fluorophenyl)acetate | 0.122 g | C(#N)C=1C=C(C=CC1F)CC(=O)OC(C)(C)C | C13H14FNO2
reactant | N-(4-chlorophenethyl)-4-hydroxybenzamide | 0.150 g | ClC1=CC=C(CCNC(C2=CC=C(C=C2)O)=O)C=C1 | C15H14ClNO2
reactant | potassium carbonate | 0.086 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMSO | 2 ml | CS(=O)C | C2H6OS
product | tert-butyl 2-(3-cyano-4-(4-(phenethylcarbamoyl)phenoxy)phenyl)acetate | 0.120 g | C(#N)C=1C=C(C=CC1OC1=CC=C(C=C1)C(NCCC1=CC=CC=C1)=O)CC(=O)OC(C)(C)C | C28H28N2O4
